US05506234
5.4 g of 5-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester and 7.5 g of N,N-dimethylaminopyridine are dissolved in 250 ml of methylene chloride and cooled to 0° C. A solution of 6.5 ml of trifluoromethanesulfonic acid anhydride in 40 ml of methylene chloride is slowly instilled in this mixture at 0° C. solution temperature. After stirring for 1/2 hour at 0° C. it is mixed in succession with 100 ml of water and 50 ml of 1-N hydrochloric acid and shaken out. The organic phase in succession is washed with 1-N hydrochloric acid and water, dried and concentrated by evaporation. The residue is recrystallized from hexane and a little ethyl acetate and yields 8.2 g (80% of theory) of 5-trifluoromethanesulfonyloxy-4-methoxymethyl-9-trifluoromethanesulfonyl-β-carboline-3-carboxylic acid ethyl ester of a melting point of 60°-62° C.

reactant | 5-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 5.4 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)O | C16H16N2O4
reactant | trifluoromethanesulfonic acid anhydride | 6.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 5-trifluoromethanesulfonyloxy-4-methoxymethyl-9-trifluoromethanesulfonyl-β-carboline-3-carboxylic acid ethyl ester | 8.2 g, 80% | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC(=C3C2C1COC)OS(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C18H14F6N2O8S2
